US07713978B2
Description 13: 1,1-Dimethylethyl (2R,6S)-4-[6-{[(4-bromo-2-chlorophenyl)sulfonyl]amino}-5-(methyloxy)-2-pyridinyl]-2,6-dimethyl-1-piperazinecarboxylate (D13)
1,1-Dimethylethyl (2R,6S)-4-[6-amino-5-(methyloxy)-2-pyridinyl]-2,6-dimethyl-1-piperazinecarboxylate (D12)(1.0 g, 2.97 mmol) was dissolved in DCM (10 mL) and pyridine (10 mL) and then cooled to 0° C. 4-Bromo-2-chlorobenzenesulfonyl chloride (0.946 g, 3.27 mmol), dissolved in DCM (5 mL) was then added dropwise and the reaction then allowed to warm to rt overnight. The reaction was then evaporated to a minimum and redissolved in DCM (100 mL) and washed with water (50 mL). Aqueous layer was extracted with DCM (2×50 mL) and combined organic extracts washed with brine (100 mL). The organic layer was dried (MgSO4) and evaporated to give a dark oil which was purified by chromatography [silica gel, eluting with 0 to 50% Ethyl acetate/pentane]. Product fractions evaporated to give a yellow crunchy foam (D13) (1.29 g), MS (ES+) m/e 589/591 [M+H]+.

reactant | 1,1-Dimethylethyl (2R,6S)-4-[6-amino-5-(methyloxy)-2-pyridinyl]-2,6-dimethyl-1-piperazinecarboxylate | 2.97 mmol, 1.0 g | NC1=C(C=CC(=N1)N1C[C@H](N([C@H](C1)C)C(=O)OC(C)(C)C)C)OC | C17H28N4O3
reactant | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-Bromo-2-chlorobenzenesulfonyl chloride | 3.27 mmol, 0.946 g | BrC1=CC(=C(C=C1)S(=O)(=O)Cl)Cl | C6H3BrCl2O2S
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 1,1-Dimethylethyl (2R,6S)-4-[6-{[(4-bromo-2-chlorophenyl)sulfonyl]amino}-5-(methyloxy)-2-pyridinyl]-2,6-dimethyl-1-piperazinecarboxylate | BrC1=CC(=C(C=C1)S(=O)(=O)NC1=C(C=CC(=N1)N1C[C@H](N([C@H](C1)C)C(=O)OC(C)(C)C)C)OC)Cl | C23H30BrClN4O5S
